resistor_cube - fault test
V1 n7 0 DC 12
R1 0 n1 0.998118
R2 0 n2 1.004908
R3 0 n4 1.000089
R4 n1 n3 0.994182
R5 n1 n5 1.001984
R6 n2 n3 31.559293
R7 n2 n6 1.012055
R8 n3 n7 0.984106
R9 n4 n5 1.018146
R10 n4 n6 1.01388
R11 n5 n7 0.984078
R12 n6 n7 0.984036
.op
.control
run
print v(n1) v(n2) v(n3) v(n4) v(n5) v(n6) v(n7)
print @r1[i] @r2[i] @r3[i] @r4[i] @r5[i] @r6[i] @r7[i] @r8[i] @r9[i] @r10[i] @r11[i] @r12[i]
.endc
.end
